US06734205B2
A mixture of ethyl 5-benzyloxy-1,4-dimethyl-1H-indole-2-carboxylate (4.00 g, 12.4 mmol), ammonium formate (3.90 g, 61.8 mmol), 10% palladium/carbon (0.20 g) and ethanol (60 ml) was stirred at 60° C. for 1.5 hours. The catalyst was filtered off and the resulting filtrate was concentrated under reduced pressure. A 5% aqueous sodium chloride solution was added to the resulting residue, followed by extraction with ethyl acetate. The extract solution was washed with a 5% aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 2.89 g of ethyl 1,4-dimethyl-5-hydroxy-1H-indole-2-carboxylate.

reactant | ethyl 5-benzyloxy-1,4-dimethyl-1H-indole-2-carboxylate | 12.4 mmol, 4.00 g | C(C1=CC=CC=C1)OC=1C(=C2C=C(N(C2=CC1)C)C(=O)OCC)C | C20H21NO3
reactant | ammonium formate | 61.8 mmol, 3.90 g | C(=O)[O-].[NH4+]
catalyst | palladium/carbon | 0.20 g | [Pd] | Pd
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | ethyl 1,4-dimethyl-5-hydroxy-1H-indole-2-carboxylate | 2.89 g | CN1C(=CC2=C(C(=CC=C12)O)C)C(=O)OCC | C13H15NO3
